US04364956
Ethyl 5-(2-hydroxyphenyl)-4-oxo-4H-pyran-2-carboxylate
Boron tribromide (3.0 ml) was added dropwise to a stirred solution of ethyl 5-(2-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate (3.2 g) in methylene chloride (100 ml) at 5°-10° C. The mixture was stirred for 2 hours at room temperature, then cooled to 5° C. and carefully diluted with water (50 ml). The solid title product was recrystallised from ethanol (mp 187°-189° C.).

reactant | Boron tribromide | 3.0 ml | B(Br)(Br)Br | BBr3
reactant | ethyl 5-(2-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate | 3.2 g | COC1=C(C=CC=C1)C=1C(C=C(OC1)C(=O)OCC)=O | C15H14O5
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | Ethyl 5-(2-hydroxyphenyl)-4-oxo-4H-pyran-2-carboxylate | OC1=C(C=CC=C1)C=1C(C=C(OC1)C(=O)OCC)=O | C14H12O5
